Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Proton Pump Inhibitors
 
Attending: ___
 
Chief Complaint:
Dysphagia
 
Major Surgical or Invasive Procedure:
s/p endoscopic removal c/b mucosal tear s/p clipping

 
History of Present Illness:
___ M with history of eosinophilic esophagitis vs GERD p/w 
difficulty swallowing and chest pain after swallowing a piece of 
steak yesterday, now s/p EGD with removal of food bolus c/b 
mucosal tear admitted for post-procedural monitoring 

Yesterday at 1700 he swallowed a piece of steak during dinner 
but felt that the food became stuck in his esophagus in his 
upper chest, preventing him from swallowing anything further. He 
attempted to drink water to help pass the food into his stomach 
as this has helped during similar episodes previously, but the 
water just filled his esophagus, forcing him to spit the water 
back out. He presented to the ___ ED at ___ yesterday 
evening, also noting that he was experiencing chest and neck 
tightness at that time.

In the ED, initial vitals were:  98.2  107  128/60  18  99% RA.  
Patient was seen by GI who recommended and performed EGD on ___, 
successfully removing a food bolus in the mid-esophagus, noting 
a mucosal tear likely ___ food trauma. Decision was made to 
admit for observation overnight s/p EGD.

On the floor, the patient is resting comfortably in bed. He 
endorses central chest pain, slightly improved, worse with deep 
inspiration. He denies any nausea or vomiting currently. Notes 
that he is better able to swallow his secretions without 
difficulty. 

ROS: 
Constitutional: no fevers, chills, sweats
HEENT: no headache, vision changes
CV: central chest pain noted above, no palpitations
Resp: no SOB
GI: no nausea, vomiting, diarrhea, constipation
Neuro: no dizziness, confusion, LOC
Skin: scabbed over rash on left elbow, no other rashes
 
Past Medical History:
 - Eosinophilic esophagitis vs GERD: He has experienced 
difficulty swallowing solids since age ___, with a frequency 
ranging from once a year to multiple times per month. In ___, 
GI performed EGD, identifying feline folds and up to 67 
eosinophils/HPF on histology, raising concern for EoE. He was 
subsequently placed on PPI ___: 
pantoprazole) with significant relief of dysphagia. Follow-up 
EGD in ___ again demonstrated feline folds, with reduction of 
eosinophils to 3/HPF, suggesting diagnosis of GERD over EoE 
considering his response to PPI therapy. He discontinued PPI in 
___ due to "apathy" and loss of motivation which he 
experienced after 2 months on both omeprazole and pantoprazole, 
and he began taking ranitidine in its place. He notes that he 
has had a raspier voice upon waking up in the morning since 
beginning ranitidine.
 - Hyperlipidemia
 - HTN
 - ADHD
 - Psoriasis
 - Anxiety
 - Depression
 - Panic attacks
 - Back pain
 
Social History:
___
Family History:
GM with esophageal dysplasia in her ___. MGF with psoriasis. 
Mother with HLD. Father with CAD s/p stent. No autoimmune 
disease. 
 
Physical Exam:
ADMISSION
VS: 98.7  74  111/60  16  97%RA 
Gen: NAD, lying comfortably in bed
HEENT: NC/AT. PERRL 3-->2, EOMI. Erythematous soft palate with 
single overlying ulcer. No neck stiffness, crepitus, or LAD. 
Raspy voice
CV: RRR, no murmurs/rubs/gallops
Pulm: CTAB, no crackles or wheezes
Abd: soft, non-tender, non-distended, normoactive BS
Ext: WWP, distal pulses strong and symmetric
Skin: no rashes
Neuro: A/Ox3, follows commands, able to relate history without 
difficutly

DISCHARGE
VS: 99.0 118/73 86 22 97RA 
Gen: NAD, lying comfortably in bed
HEENT: NC/AT. PERRL 3-->2, EOMI. Erythematous soft palate with 
single overlying ulcer. No neck stiffness, crepitus, or LAD. 
Raspy voice
CV: RRR, no murmurs/rubs/gallops
Pulm: CTAB, no crackles or wheezes
Abd: soft, non-tender, non-distended, normoactive BS
Ext: WWP, distal pulses strong and symmetric
Skin: no rashes
Neuro: A/Ox3, follows commands, able to relate history without 
difficutly
 
Pertinent Results:
Labs:
No labwork obtained while inpatient.

EGD ___
Impression:
A large food bolus was encountered in the mid-esophagus. The 
food was able to be advanced part way down the esophagus, but 
not into the stomach. Therefore the food was removed piecemeal 
with a rat tooth forceps. A mucosal tear was seen, likely from 
trauma from the food. An attempt to deploy a clip across with 
tear was made but was not successful in bringing the edges of 
the tear together. Epinephrine was injected for hemostasis with 
success. The distal 10cm of esophagus was inflamed with a 
blueish hue consistent with pressure necrosis from the food 
bolus. (endoclip, injection).  Otherwise normal EGD to third 
part of the duodenum.  
 
Brief Hospital Course:
___ PMH of Eosinophilic esophagitis vs GERD who presented with 
esophageal food impaction ___ piece of steak

Investigations/Interventions:
1. Esophageal Impaction - Occurred when eating steak, was unable 
to be cleared by patient for several hours prior to 
presentation, required EGD which failed to push bolus into 
stomach, and needed piecemeal dissection via rat tooth forceps. 
Bolus time in esophagus seemed to have created a pressure ulcer 
and mucosal erosion that was attempted to be repaired 
endoscopically with a clip. Pt was monitored for 24 hours 
post-procedure to ensure no complications. Diet advanced from 
clear liquids to soft solids without issue. Pt was instructed to 
limit diet to liquids and soft solids for the next week and 
slowly advance to solid food so long as he extensively chews 
food. Pt discharged on viscous lidocaine and high dose BID PPI 
for 8 weeks with plan to follow up with GI at end of course, 
likely for repeat endoscopy. Also provided PCP follow up 
appointment.

Transitional Issues:
========================================
1. Pt was instructed to limit diet to liquids and soft solids 
for the next week and slowly advance to solid food so long as he 
extensively chews food. 
2. Pt discharged on viscous lidocaine and high dose BID PPI for 
8 weeks with plan to follow up with GI at end of course, likely 
for repeat endoscopy.

# CODE: Full code
# CONTACT: ___ (wife): ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. HydrOXYzine 10 mg PO TID 
4. Ranitidine 150 mg PO BID 
5. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN rash 
6. Multivitamins 1 TAB PO DAILY 
7. Amphetamine-Dextroamphetamine XR 5 mg PO DAILY 
8. Amphetamine Salt Combo (dextroamphetamine-amphetamine) 10 mg 
oral DAILY 

 
Discharge Medications:
1. Lidocaine Viscous 2% 15 mL PO TID:PRN pain 
RX *lidocaine HCl [Lidocaine Viscous] 2 % 15mL by mouth TID:prn 
Refills:*0
2. Amlodipine 5 mg PO DAILY 
3. Amphetamine Salt Combo (dextroamphetamine-amphetamine) 10 mg 
oral DAILY 
4. Amphetamine-Dextroamphetamine XR 5 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 
6. HydrOXYzine 10 mg PO TID 
7. Multivitamins 1 TAB PO DAILY 
8. Ranitidine 150 mg PO BID 
9. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN rash 
10. Pantoprazole 40 mg PO Q12H Duration: 8 Weeks 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*120 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Esophageal food impaction s/p endoscopic removal c/b mucosal 
tear s/p clipping

 
Discharge Condition:
Discharge Condition: Improved/Stable
Mental Status: AOx3 (baseline)
Ambulatory Status: Independent (baseline)

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you while you were hospitalized 
at ___. As you know, you were 
admitted because a piece of steak was stuck in your esophagus. 
Fortunately, we were able to remove it with our specialized 
equipment, but the time it spent in your esophagus damaged the 
lining somewhat. Accordingly, you will need to eat a 
predominantly liquid/soft diet for the next week with slow 
introduction of solid food that is chewed very extensively. You 
will need to continue an acid suppressive medication for 8 weeks 
and follow up with your gastroenterologist. 

We wish you a speedy recovery!

 
Followup Instructions:
___